US06162808
i) 4,5-Dihydro-4,4-dimethyl-2-[4-trifluoromethylphenyl]oxazole
To a solution of 2-amino-2-methyl-1-propanol (21.4 g) in dichloromethane (100 ml) at 0C was added dropwise a solution of 4-(trifluoromethyl)benzoyl chloride (25 g). The mixture was stirred at room temperature for 16 hours, washed with 2M HCl then sodium bicarbonate solution, dried (MgSO4) and evaporated. The residue was dissolved in dichloromethane (100 ml) and treated with thionyl chloride (14 ml) at 0C. The mixture was stirred at room temperature for 2 hours and evaporated. The residue was partitioned between ethyl acetate and aqueous potassium hydroxide. The organic phase was dried (MgSO4) and evaporated. Yield 14.57 g.

reactant | 2-amino-2-methyl-1-propanol | 21.4 g | NC(CO)(C)C | C4H11NO
reactant | 4-(trifluoromethyl)benzoyl chloride | 25 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4,5-Dihydro-4,4-dimethyl-2-[4-trifluoromethylphenyl]oxazole | CC1(N=C(OC1)C1=CC=C(C=C1)C(F)(F)F)C | C12H12F3NO
